Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
COPD exacerbation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old male with a PMH of severe COPD with large asthmatic 
component, PVD and schizophrenia referred to the ED on ___ by 
his PCP to follow up on elevated WBC. The patient suffers from a 
chronic cough and mild shortness of breath with 
exertion????changes prior admission????. Patient does not use 
oxygen at home. Spirometry (___) showed FEV1 and vital 
capacity 0.64 and 1.17 (22% and 31% predicted, respectively). 
FEV1/FVC is 55% (72% predicted). He has had prior ICU admission 
for COPD requiring intubation. Denies fevers, chills, nausea, 
vomiting, dysuria, abdominal pain and chest pain.

ED Course:
 -------------  
 - Initial vitals: T98.1 HR101 BP134/78 RR18 O2Sat92% RA.  
 - Exam notable for coarse lung sounds b/l and mild expiratory 
wheezing over left lower lobe.  
 - Selected labs: notable for WBC 16.7, HCO3 36.  
 - Imaging: initial CXR notable for hyperinflation and flattened 
diaphragms, no focal consolidation was seen.  
 - EKG showed sinus rhythm, no ST changes.  
 - Patient was given IV methylprednisolone 125 mg, IV 500 mg 
azithromycin, and duonebs x 2.  
 - Decision was made to admit for COPD exacerbation treatment.  
 - Vitals prior to transfer: T98.6 HR88 BP129/69 RR15 O2Sat94% 
Nasal Cannula.  
 
Past Medical History:
Severe COPD
Schizophrenia
peripheral vascular disease
emphysema
history of alcohol abuse

Past surgical history:
Femoral-Femoral bypass graft (___)
 
Social History:
___
Family History:
Lung disease in father. Cardiac disease in family, including 
recent MI in brother

 
Physical ___:
ADMISSION PHYSICAL EXAM:
 GENERAL: Alert, oriented, appears in respiratory distress 
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: accessory muscle use, decreased breath sounds 
bilaterally, with prolonged expiratory phase CV: Regular rate 
and rhythm, normal S1 S2, no murmurs, rubs, gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 SKIN: Flushed, no rash
 NEURO: no focal deficits

DISCHARGE PHYSICAL EXAM:
Vitals: 98.3 136/68 106 16 96 RA 
General: A&Ox3, no acute distress
HEENT: sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation in upper lung fields. Minimal 
end-expiratory wheezes in lower fields.  
CV: RRR, distant heart sounds, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: warm, well perfused, 2+ pulses, clubbing present, cyanosis 
or edema
Neuro: motor function grossly normal

 
Pertinent Results:
ADMISSION LABS:
___ 12:31PM BLOOD WBC-23.7* RBC-4.38* Hgb-12.9* Hct-42.0 
MCV-96 MCH-29.5 MCHC-30.7* RDW-15.2 RDWSD-53.8* Plt ___
___ 12:31PM BLOOD Neuts-88.3* Lymphs-1.9* Monos-8.5 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-20.89* AbsLymp-0.45* 
AbsMono-2.01* AbsEos-0.07 AbsBaso-0.08
___ 05:06AM BLOOD ___ PTT-27.6 ___

___ 12:31PM BLOOD UreaN-10 Creat-0.8 Na-133 K-4.9 Cl-91* 
HCO3-33* AnGap-14
___ 03:59AM BLOOD Calcium-8.1* Phos-3.9 Mg-1.9 UricAcd-2.4*
___ 03:59AM BLOOD Osmolal-266*
___ 03:58PM BLOOD Osmolal-307
___ 03:59AM BLOOD TSH-0.12*
___ 09:34AM BLOOD ___ pO2-193* pCO2-57* pH-7.39 
calTCO2-36* Base XS-8 Comment-GREEN TOP
___ 02:33AM BLOOD Lactate-1.0

DISCHARGE LABS:
___ 05:40AM BLOOD WBC-11.7* RBC-4.06* Hgb-11.8* Hct-37.5* 
MCV-92 MCH-29.1 MCHC-31.5* RDW-16.3* RDWSD-55.6* Plt ___
___ 06:15AM BLOOD Neuts-75* Bands-0 Lymphs-12* Monos-8 
Eos-3 Baso-1 ___ Metas-1* Myelos-0 AbsNeut-12.60* 
AbsLymp-2.02 AbsMono-1.34* AbsEos-0.50 AbsBaso-0.17*
___ 05:40AM BLOOD Glucose-99 UreaN-14 Creat-0.7 Na-133 
K-4.2 Cl-98 HCO3-27 AnGap-12
___ 06:15AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.0
___ 12:47AM BLOOD Type-ART pO2-71* pCO2-52* pH-7.43 
calTCO2-36* Base XS-8

IMAGING:
CXR ___:  
No acute cardiopulmonary process. 

CTA chest ___:
1.  Bilateral consolidations/volume loss likely related to 
aspiration/pneumonia as secretions are noted in the right lower 
lobe bronchi 
2.  No evidence of pulmonary embolus. 

Video oropharyngeal swallow ___:
Pharyngeal residue in the valleculae without evidence of 
penetration or 
aspiration.  

URINE:
___ 03:48PM URINE RBC-26* WBC-10* Bacteri-FEW Yeast-NONE 
Epi-___ yo M with history of COPD, PVD, BPH, and schizophrenia who 
was admitted for leukocytosis, found to have COPD exacerbation 
and pneumonia. 

# COPD exacerbation: Resolved. CT chest suggested concurrent 
aspiration pneumonia. CT-PE negative for PE. He has GOLD stage 4 
COPD, FEV1 <30%. Given initial hypoxia he was briefly in the ICU 
but did not require intubation or BiPAP. He received 
ipratropium/albuterol nebulizers and completed a steroid taper. 
He was initially treated with broad spectrum antibiotics and 
narrowed to levofloxacin for total 7-day course (last day ___.

# Paranoia/schizophrenia: During hospitalization pt was 
experiencing paranoia and delirium, likely induced by steroid 
burst. He was evaluated by psychiatry and olanzapine was 
titrated. Bupropion, Mirtazapine and Omeprazole were held due to 
possible deliriogenic effects. 

# Chronic dysphagia: Pt underwent oral and pharyngeal swallowing 
videofluoroscopy ___, with a swallowing pattern correlating to 
a Functional Oral Intake Scale (FOIS) rating of ___. Diet was 
advanced to soft solids and thin liquids. Meds are to be crushed 
in puree. 

# Urinary retention: He had recurrent urinary retention. Foley 
was placed on ___, and he subsequently failed two voiding 
trials. He was discharged with Foley catheter with plan for 
close urology followup as described above. Tamsulosin and 
finasteride were continued. 

CHRONIC ISSUES:
---------------
#Constipation: Continued Senna, Colace, miralax.  
#PVD: Continued clopidogrel, aspirin.  
#HLD: Continued atorvastatin.
#GERD: Held omeprazole as above. Continued calcium carbonate. 

Transitional Issues:
--------------------
- Blood pressures were found to be higher in the right arm 
compared to the left. He may have asymptomatic subclavian 
stenosis and further evaluation is deferred to the outpatient 
setting.
- ___ consider restarting Bupropion, Mirtazapine and Omeprazole 
as clinically appropriate. These medications were held due to 
possible contribution to delirium.
- He will need to follow up with urology regarding continued 
urinary retention.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. BuPROPion 100 mg PO BID 
3. Mirtazapine 7.5 mg PO QHS 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. OLANZapine 15 mg PO QHS 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
8. Atorvastatin 40 mg PO QPM 
9. budesonide 0.5 mg/2 mL inhalation BID 
10. Clopidogrel 75 mg PO QHS 
11. Omeprazole 20 mg PO DAILY 
12. Calcium Carbonate 600 mg PO DAILY 
13. Aspirin 325 mg PO DAILY 
14. Loratadine 10 mg PO DAILY 
15. Tamsulosin 0.4 mg PO QHS 
16. Albuterol Inhaler 1 PUFF IH Q6H:PRN sob 
17. Acetaminophen 325 mg PO Q8H:PRN Pain - Mild 
18. Lactic Acid 12% Lotion 1 Appl TP TWICE A DAY 
19. FiberCon (calcium polycarbophil) 625 mg oral Twice a day 
20. Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID 
21. Fluticasone Propionate NASAL 1 SPRY NU BID 
22. econazole 1 % topical Twice a day 
23. Serevent Diskus (salmeterol) 50 mcg/dose inhalation Q12H 
24. Ensure (food supplemt, lactose-reduced)    oral Once a day 

 
Discharge Medications:
1.  Senna 8.6 mg PO BID Constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0 
2.  OLANZapine 10 mg PO DAILY 
RX *olanzapine 10 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Acetaminophen 325 mg PO Q8H:PRN Pain - Mild  
4.  Albuterol Inhaler 1 PUFF IH Q6H:PRN sob  
5.  Aspirin 325 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Budesonide 0.5 mg/2 mL INHALATION BID  
8.  Calcium Carbonate 600 mg PO DAILY  
9.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID  
10.  Clopidogrel 75 mg PO QHS  
11.  Docusate Sodium 100 mg PO BID:PRN constipation  
12.  econazole 1 % topical Twice a day  
13.  Ensure (food supplemt, lactose-reduced)    1 ORAL ONCE A 
DAY  
14.  FiberCon (calcium polycarbophil) 625 mg oral Twice a day  
15.  Finasteride 5 mg PO DAILY  
16.  Fluticasone Propionate NASAL 1 SPRY NU BID  
17.  Lactic Acid 12% Lotion 1 Appl TP TWICE A DAY  
18.  Loratadine 10 mg PO DAILY  
19.  Metoprolol Succinate XL 25 mg PO DAILY  
20.  OLANZapine 15 mg PO QHS  
21.  Serevent Diskus (salmeterol) 50 mcg/dose INHALATION Q12H  
22.  Tamsulosin 0.4 mg PO QHS  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24. HELD- BuPROPion 100 mg PO BID  This medication was held. Do 
not restart BuPROPion until psychiatrist / PCP ___. Held 
due to being deliriogenic.
25. HELD- Mirtazapine 7.5 mg PO QHS  This medication was held. 
Do not restart Mirtazapine until psychiatrist / PCP ___. 
Held due to being deliriogenic.
26. HELD- Omeprazole 20 mg PO DAILY  This medication was held. 
Do not restart Omeprazole until psychiatrist / PCP ___. 
Held due to being deliriogenic.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
------------------
COPD Exacerbation
Aspiration-Induced Pneumonia

Secondary Diagnosis:
--------------------
Delirium
Psychosis
Urinary Retention
Chronic dysphagia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had a high count 
of white blood cells in your blood. In the hospital you were 
found to have pneumonia which gave rise to worsening of your 
lung disease. You were treated with antibiotics and other 
medications, and your breathing improved.

During your hospitalization you were feeling confused and 
unsafe. We believe this was due to some of the medications you 
were taking to help improve your breathing. These symptoms 
improved when we decreased the dose of these medications. 

You also had difficulty voiding urine and required placement of 
a Foley catheter. You should follow up with a urologist to 
determine next steps for management of your urinary retention.

Sincerely,
Your ___ Team
 
Followup Instructions:
___